US06008223
4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-phenethyl-N-[3,5-bis(trifluoromethyl)benzyl]butylamine.
Using a procedure similar to that described in Example 1, except replacing the (3,4-dichlorophenyl)butylamine and the 3,5-bis(trifluoromethyl)benzaldehyde used therein with 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine and phenylacetaldehyde, respectively, the title compound was prepared; mp 55-57° C.; partial NMR (DMSO): 7.1-6.95 (broad m,11), 3.88 (d,1), 3.65 (d,1), 3.35(d,1), 3.15(d,1), 1.85 (s,3); MS: m/z=764(M+1,100%); TLC: Rf=0.44 (10:1 dichloromethane:methanol). Analysis for C40H41Cl2F6N3O: Calculated: C, 62.83; H, 5.40; N, 5.50; Found: C, 63.18; H, 5.71; N, 5.35.

reactant | (3,4-dichlorophenyl)butylamine | ClC=1C=C(C=CC1Cl)CCCCN | C10H13Cl2N
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CN)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C32H33Cl2F6N3O
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-Acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-phenethyl-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CNCCC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C40H41Cl2F6N3O
